US04960766
To a solution of tert-butyl 2-difluoromethoxyimino-3-oxobutyrate (5.0 g) in acetic acid (5 ml) was added sulfuryl chloride (8.5 ml). The mixture was stirred at 60°-63° C. for 7 hours. The solvent was evaporated in vacuo to give 4-chloro-2-difluoromethoxyimino-3-oxobutyric acid (4.5 g) as a glassy mass.

reactant | tert-butyl 2-difluoromethoxyimino-3-oxobutyrate | 5.0 g | FC(ON=C(C(=O)OC(C)(C)C)C(C)=O)F | C9H13F2NO4
reactant | sulfuryl chloride | 8.5 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-2-difluoromethoxyimino-3-oxobutyric acid | 4.5 g | ClCC(C(C(=O)O)=NOC(F)F)=O | C5H4ClF2NO4
